US08614226B2
Synthesis of 4-chloro-2-(6-methylpyridin-2-yl)-[1,8]naphthyridine
A solution of 1.69 g (8.47 mmol) 2,4-dichloro-[1,8]naphthyridine and 3.24 g (8.47 mmol) 6-methyl-2-(tributylstannyl)-pyridine in 8.5 ml toluene under nitrogen was heated to 80° C. Then 178 mg (0.254 mmol) bis-(triphenylphosphine)-palladium(II)-chloride were added. The mixture was stirred for 16 hrs at 80° C. and then cooled to 0° C. in an ice bath. The precipitate was filtered off, washed with ice cold toluene and petrolether and dried in vacuum. This yielded 4-chloro-2-(6-methylpyridin-2-yl)-[18]naphthyridine as gray felted needles; HPLC-MS: 2.25 min, [M+H] 256.

reactant | 2,4-dichloro-[1,8]naphthyridine | 8.47 mmol, 1.69 g | ClC1=NC2=NC=CC=C2C(=C1)Cl | C8H4Cl2N2
reactant | 6-methyl-2-(tributylstannyl)-pyridine | 8.47 mmol, 3.24 g | CC1=CC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 8.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.254 mmol, 178 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-chloro-2-(6-methylpyridin-2-yl)-[1,8]naphthyridine | ClC1=CC(=NC2=NC=CC=C12)C1=NC(=CC=C1)C | C14H10ClN3
